US08633186B2
To a solution of tetrahydropyran-4-methanol (782 mg, 6.73 mmol) in THF (25 mL), was added slowly 1.38M nBuLi (4.13 mL, 5.70 mmol) in hexane at −78° C. under nitrogen. At one hour a solution of 2,6-dinitrobenzonitrile (1.00 g, 5.18 mmol) in THF (25 mL) was added. The reaction was stirred under N2 overnight at rt, then was quenched with water (100 mL). The precipitate was collected by filtration to provide 2-nitro-6-((tetrahydro-2H-pyran-4-yl)methoxy)benzonitrile (1.13 g, 83%) as a light brown solid. 1H NMR (400 MHz, DMSO-d6) δ 1.68 (m, 2H), 2.06 (br, 1H), 3.33 (m, 2H), 3.88 (m, 2H), 4.11 (d, J=6.0 Hz, 2H), 7.72 (d, J=6.0 Hz, 1H), 7.89-7.85 (m, 2H).

reactant | tetrahydropyran-4-methanol | 6.73 mmol, 782 mg | O1CCC(CC1)CO | C6H12O2
reactant | nBuLi | 5.70 mmol, 1.38M, 4.13 mL | [Li]CCCC
reactant | 2,6-dinitrobenzonitrile | 5.18 mmol, 1.00 g | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-nitro-6-((tetrahydro-2H-pyran-4-yl)methoxy)benzonitrile | 1.13 g, 83% | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)OCC1CCOCC1 | C13H14N2O4
